US04391826
Methyl 2-(4-hydroxycarbonylphenyl)ethyl ketone was esterified by reaction with methyl alcohol and hydrochloric acid to provide methyl 2-(4-methoxycarbonylphenyl)ethyl ketone. The ketone was condensed with optically active S-α-methylbenzylamine, and the imine which was formed was reduced to provide N-(α-methylbenzyl)-1-methyl-3-(4-methoxycarbonylphenyl)propylamine. The amine was converted to the hydrochloride salt, and fractional crystallization of the salt thus formed afforded optically active S-N-(α-methylbenzyl)-1-methyl-3-(4-methoxycarbonylphenyl)propylaminium chloride. M.P. 198°-205° C. [α]D -81.2° (MeOH).

reactant | Methyl 2-(4-hydroxycarbonylphenyl)ethyl ketone | OC(=O)C1=CC=C(C=C1)CCC(=O)C | C11H12O3
reactant | hydrochloric acid | Cl | ClH
reactant | methyl alcohol | CO | CH4O
product | methyl 2-(4-methoxycarbonylphenyl)ethyl ketone | COC(=O)C1=CC=C(C=C1)CCC(=O)C | C12H14O3
